US07732440B2
2-(5,5-Dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic Acid
700 mg of tert-butyl 2-[1-ethoxycarbonyl-2-(tetrahydropyran-4-yl)ethyl]-5,5-dioxo-5H-phenothiazine-10-carboxylate are suspended in 50 ml of methanol, and 10 ml of 2 M NaOH solution are added. The reaction mixture is stirred at 60° C. for one hour. The methanol is removed under reduced pressure and the reaction mixture is adjusted to pH 4 by addition of concentrated hydrochloric acid. The mixture is extracted three times with in each case 100 ml of ethyl acetate. The combined organic phases are dried over MgSO4 and then concentrated under reduced pressure. This gives 600 mg of 2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic acid. C20H21NO5S (387.46), LCMS (ESI): 388.1 (M+H+).

reactant | tert-butyl 2-[1-ethoxycarbonyl-2-(tetrahydropyran-4-yl)ethyl]-5,5-dioxo-5H-phenothiazine-10-carboxylate | 700 mg | C(C)OC(=O)C(CC1CCOCC1)C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C(=O)OC(C)(C)C | C27H33NO7S
reactant | NaOH | 2 M, 10 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(5,5-Dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic Acid | O=S1(C=2C=CC(=CC2NC2=CC=CC=C12)C(C(=O)O)CC1CCOCC1)=O | C20H21NO5S
